US09024018B2
3-Methyl-4-oxo-N-(2-oxo-2-phenylethyl)-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboxamide
To 3-methyl-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbonyl chloride (0.620 g; 2.90 mmol) and 2-aminoacetophenone hydrochloride (0.500 g; 2.90 mmol) was added DMF (6 mL) and pyridine (1.2 mL). The reaction mixture was stirred for 16 hours at room temperature, and then poured onto water. The precipitate was filtered, washed with water, and dried in the vacuum oven, and used without further purification. δH (DMSO-d6) 8.89 (1H, s), 8.68 (1H, t, J=5.6), 8.06 (2H, dd, J=8.3, 1.2), (1H, tt, J=7.4, 1.8), 7.58 (2H, m), 4.86 (1H, d, J=5.6), 3.89 (3H, s).

reactant | 3-methyl-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbonyl chloride | 2.90 mmol, 0.620 g | CN1N=NC=2N(C1=O)C=NC2C(=O)Cl | C6H4ClN5O2
reactant | 2-aminoacetophenone hydrochloride | 2.90 mmol, 0.500 g | Cl.NCC(=O)C1=CC=CC=C1
reactant | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | pyridine | 1.2 mL | N1=CC=CC=C1 | C5H5N
product | 3-Methyl-4-oxo-N-(2-oxo-2-phenylethyl)-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboxamide | CN1N=NC=2N(C1=O)C=NC2C(=O)NCC(C2=CC=CC=C2)=O | C14H12N6O3
